US08487108B2
To a solution of the (S)-methyl 2-(tert-butoxycarbonylamino)-3-(4-hydroxycyclohexyl)propanoate (96.56 g, 0.32 mol) in CH2Cl2 (500 mL) was added imidazole (43.52 g, 0.64 mol), followed by TBSCl (72 g, 0.48 mol) at 0° C. After addition, the mixture was allowed to stir at rt overnight. The reaction mixture was treated with water and extracted with CH2Cl2. The organic layer was dried over Na2SO4, filtered, and evaporated to give (S)-methyl 2-(tert-butoxycarbonylamino)-3-(4-(tert-butyldimethylsilyloxy)cyclohexyl)propanoate (133 g, yield 100%). 1H NMR: (CDCl3, 400 MHz) δ 0.08 (d, 6H), 0.89 (d, 9H), 1.45 (s, 9H), 1.51 (m, 4H), 1.58 (m, 1H), 1.68 (t, 4H), 1.85 (d, 1H), 3.71 (d, 3H), 3.91 (m, 1H), 4.34 (m, 1H), 4.86 (m, 1H).

reactant | (S)-methyl 2-(tert-butoxycarbonylamino)-3-(4-hydroxycyclohexyl)propanoate | 0.32 mol, 96.56 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)OC)CC1CCC(CC1)O | C15H27NO5
reactant | imidazole | 0.64 mol, 43.52 g | N1C=NC=C1 | C3H4N2
reactant | TBSCl | 0.48 mol, 72 g | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | water | O | H2O
solvent | CH2Cl2 | 500 mL | C(Cl)Cl | CH2Cl2
product | (S)-methyl 2-(tert-butoxycarbonylamino)-3-(4-(tert-butyldimethylsilyloxy)cyclohexyl)propanoate | 133 g, yield 100% | C(C)(C)(C)OC(=O)N[C@H](C(=O)OC)CC1CCC(CC1)O[Si](C)(C)C(C)(C)C | C21H41NO5Si
